US08202885B2
To a solution of 0.5 g of crude 5-hydroxy-5-pyridin-3-yl-bicyclo[2.2.2]octan-2-one (intermediate K3A.2) in 20 mL DCM were added 84 mg DMAP and 1.6 mL NEt3. The mixture was cooled to 0° C. before 0.53 mL of mesylchloride was added dropwise. The resulting suspension was stirred at 0° C. for 1 h and then overnight at rt. The reaction was quenched by the addition of sat. aq. NaHCO3 solution. The water phase was extracted with EtOAc. The combined organic phases were washed with brine, dried over MgSO4 and concentrated in vacuo. Purification by CC (EtOAc) yielded 0.27 g of rac-(1R*,4R*)-5-pyridin-3-yl-bicyclo[2.2.2]oct-5-en-2-one as yellow oil.

reactant | 5-hydroxy-5-pyridin-3-yl-bicyclo[2.2.2]octan-2-one | 0.5 g | OC1(C2CC(C(C1)CC2)=O)C=2C=NC=CC2 | C13H15NO2
reactant | NEt3 | 1.6 mL | CCN(CC)CC | C6H15N
reactant | mesylchloride | 0.53 mL | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 84 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | rac-(1R*,4R*)-5-pyridin-3-yl-bicyclo[2.2.2]oct-5-en-2-one | 0.27 g | N1=CC(=CC=C1)C=1C2CC(C(C1)CC2)=O | C13H13NO
